US08293895B2
The tert-butyl((5-(bromomethyl)furan-2-yl)methyl)carbamate (5.8 g, 20 mmol) obtained above and 50 mL of acetonitrile were added into a flask. Triethylamine (2.3 g, 22 mmol) was added thereto dropwise and the reaction mixture was stirred at room temperature for 6 h. After the completion of the reaction, the reaction mixture was washed successively with water and saturated brine. The organic layer was dried, concentrated, and crude product was purified by column chromatograph to give 3.9 g (83.3% yield) of 5-(tert-butoxycarbonylaminomethyl)-furan-2-acetonitrile.

reactant | tert-butyl((5-(bromomethyl)furan-2-yl)methyl)carbamate | 20 mmol, 5.8 g | C(C)(C)(C)OC(NCC=1OC(=CC1)CBr)=O | C11H16BrNO3
reactant | Triethylamine | 22 mmol, 2.3 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 5-(tert-butoxycarbonylaminomethyl)-furan-2-acetonitrile | 3.9 g, 83.3% yield | C(C)(C)(C)OC(=O)NCC1=CC=C(O1)CC#N | C12H16N2O3
